data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccc(Cl)cc1)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(Cl)cc1)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(Cl)cc1)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccc(Cl)cc1)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccc(Cl)cc1)C2(C)C", "products": "C[C+]1C2(c3ccc(Cl)cc3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccc(Cl)cc3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccc(Cl)cc2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Cl)cc2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(Cl)cc2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Cl)cc2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccc(Cl)cc2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccc(Cl)cc2)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccc(Cl)cc3)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccc(Cl)cc3)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccc(Cl)cc3)C1(C)OC2=O.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "CC1[C@H](CF)C[C@H]2CC=CC[C@H]2[C@@H]1NO.C=O", "products": "CC1[C@H](CF)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]"}, {"reactants": "CC1[C@H](CF)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]", "products": "CC1[C@H](CF)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO"}, {"reactants": "CC1[C@H](CF)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO", "products": "C=[N+](O)[C@@H]1C(C)[C@H](CF)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(C)[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(C)[C@H](CF)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(C)[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "CC1[C@H](CF)C[C@H]2CC3O[N@]4CC3C[C@H]2[C@@H]14"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(OC)cc1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)cc1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)cc1C)C(C)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c(C)c1"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c(C)c1", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c(C)c1"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c(C)c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c(C)c1"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c(C)c1", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c(C)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(OC)c(Cl)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)c(Cl)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)c(Cl)c1)C(C)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1Cl"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1Cl", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1Cl"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1Cl.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1Cl"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1Cl", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)cc1Cl.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(F)c(N(C)C(=O)C2=CCCC2)c(Br)c1.[Pd]", "products": "Cc1cc(F)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1"}, {"reactants": "Cc1cc(F)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1", "products": "Cc1cc(F)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1cc(F)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1cc(F)c2c(c1)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
